US05122523
1.92 g of lithium chloride was suspended in 50 ml of dry THF, and 15 g of ethyl 2-diethylphosphono-3-(1-naphthyl)propionate was dropwise added thereto. Then, 16 ml of a 50% dry THF solution of DBU was dropwise added thereto, and 2.01 g of paraformaldehyde suspended in dry THF was added thereto. The mixture was stirred at room temperature for 3 hours, and the insolubles were removed by filtration and washed with a small amount of diethyl ether. The washing solution and and the filtrate were put together, and the solvent was distilled off. The resulting syrup was dissolved in 180 ml of diethyl ether. The diethyl ether layer was washed sequentially with a 10% citric acid aqueous solution, with water and with a saturated sodium chloride aqueous solution and dried over anhydride sodium sulfate. The solvent was distilled off, and the syrup thereby obtained was purified by silica gel column chromatography (n-hexane/diethyl ether=20/1) to obtain 6.48 g of ethyl 2-(1-naphthyl)methyl-2-propenoate as colorless oily substance.

reactant | lithium chloride | 1.92 g | [Cl-].[Li+]
reactant | ethyl 2-diethylphosphono-3-(1-naphthyl)propionate | 15 g | C(C)OP(=O)(OCC)C(C(=O)OCC)CC1=CC=CC2=CC=CC=C12 | C19H25O5P
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | paraformaldehyde | 2.01 g | C=O | CH2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | ethyl 2-(1-naphthyl)methyl-2-propenoate | 6.48 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OCC)=C | C16H16O2
